US09126988B2
Preparation of 4-hydroxy-5-methoxy-3 nitrobenzoic acid
A reactor was charged with 525 kg of glacial acetic acid and 50 kg vanillic acid. The mixture was heated with warm water gradually to 50° C. in around 75 minutes. Temperature was set to 16° C. Nitric acid, 31.4 kg was then added gradually over a period of 3 hrs. When the administration was complete the mixture was allowed to stir for additional 3.5-4.5 hours.

reactant | acetic acid | 525 kg | C(C)(=O)O | C2H4O2
reactant | vanillic acid | 50 kg | C(C1=CC(OC)=C(O)C=C1)(=O)O | C8H8O4
reactant | Nitric acid | [N+](=O)(O)[O-] | HNO3
solvent | water | O | H2O
product | 4-hydroxy-5-methoxy-3 nitrobenzoic acid | OC1=C(C=C(C(=O)O)C=C1OC)[N+](=O)[O-] | C8H7NO6
